** sch_path: /home/anton/projects/ttsky25a-vga-matrix-dac/xschem/icell.sch
.subckt icell VPWR VGND Rn Cn Sn Vbias Iout
*.PININFO Rn:I VPWR:B Iout:O VGND:B Cn:I Sn:I Vbias:I
XMsp Ien Sn VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMsna Ien Sn PDM VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMcpa Ien Cn PUM VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMrpa PUM Rn VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMrno PDM Rn VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMcno PDM Cn VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 m=1
XMiu SM Vbias VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMsw Iout Ien SM VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
.ends
